US06320050B1
A solution of triphenylphosphine (154 mg, 0.59 mmol) in methylene chloride (3 mL) was cooled to 0° C. and then slowly treated with N-bromosuccinimide (104 mg, 0.59 mmol). The reaction mixture was stirred at 0° C. for 10 min and then treated with 2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid (200 mg, 0.53 mmol). The resulting reaction mixture was stirred at 0° C. for 5 min and then allowed to warm to 25° C. where it was stirred for 30 min. The reaction mixture was then treated with 2-amino-5-bromopyridine (203 mg, 1.17 mmol). The resulting reaction mixture was stirred at 25° C. for 15 h. The crude reaction mixture was then directly purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 3/1 hexanes/ethyl acetate) to afford the 2-(3-bromo-4-methanesulfonyl-phenyl)-N-(5-bromo-pyridin-2-yl)-3-cyclopentyl-propionamide (164 mg, 58%) as a white foam: mp 83-86° C. (foam to gel); FAB-HRMS m/e calcd for C20H22Br2N2O3S (M+H)+ 528.9796, found 528.9783.

reactant | triphenylphosphine | 0.59 mmol, 154 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.59 mmol, 104 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid | 0.53 mmol, 200 mg | BrC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)CC1CCCC1 | C15H19BrO4S
reactant | 2-amino-5-bromopyridine | 1.17 mmol, 203 mg | NC1=NC=C(C=C1)Br | C5H5BrN2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-bromo-4-methanesulfonyl-phenyl)-N-(5-bromo-pyridin-2-yl)-3-cyclopentyl-propionamide | 164 mg, 58% | BrC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC1=NC=C(C=C1)Br)CC1CCCC1 | C20H22Br2N2O3S
